US06919356B2
Preparation of trans-1-{4-methylamino-1-[2-(4-fluorophenyl)-ethyl]-piperidin-3-ylmethyl}-3-[3-ethyl-5-(1-methyl-1H-tetrazol-5-yl)-phenyl]-urea
A solution of trans-1-{4-(benzyl-methylamino)-1-[2-(4-fluorophenyl)-ethyl]-piperidin-3-ylmethyl}-3-[3-ethyl-5-(1-methyl-1H-tetrazol-5-yl)-phenyl]-urea (95 mg, 162 μmol) in methanol (20 mL) was combined with Pearlman's catalyst (20% palladium hydroxide on charcoal, 100 mg) and shaken under a hydrogen atmosphere (60 psig) for 15 hours. The mixture was filtered through Celite and the solids were washed with methanol. The filtrate was concentrated under vacuum to provide a pale tan solid (78 mg, 97%). 1H NMR (300 MHz, CDCl3) δ7.78 (s, 1H), 7.36 (s, 1H), 7.16 (m, 2H), 7.13 (s, 1H), 6.96 (t, J=9 Hz, 2H), 4.14 (s, 3H), 3.66 (m, 1H), 3.4-3.1 (m, 4H), 2.95 (s, 3H), 2.9-2.3 (m, 12H), 2.18 (m, 2H), 1.22 (t, J=8 Hz, 3H). Mass spec (ES+) m/z 495.2 (M+H+).

reactant | trans-1-{4-(benzyl-methylamino)-1-[2-(4-fluorophenyl)-ethyl]-piperidin-3-ylmethyl}-3-[3-ethyl-5-(1-methyl-1H-tetrazol-5-yl)-phenyl]-urea | 162 μmol, 95 mg | C(C1=CC=CC=C1)N([C@H]1[C@@H](CN(CC1)CCC1=CC=C(C=C1)F)CNC(=O)NC1=CC(=CC(=C1)C1=NN=NN1C)CC)C | C33H41FN8O
solvent | methanol | 20 mL | CO | CH4O
catalyst | Pearlman's catalyst | 100 mg | [OH-].[OH-].[Pd+2]
product | trans-1-{4-methylamino-1-[2-(4-fluorophenyl)-ethyl]-piperidin-3-ylmethyl}-3-[3-ethyl-5-(1-methyl-1H-tetrazol-5-yl)-phenyl]-urea | 78 mg, 97% | CN[C@H]1[C@@H](CN(CC1)CCC1=CC=C(C=C1)F)CNC(=O)NC1=CC(=CC(=C1)C1=NN=NN1C)CC | C26H35FN8O
